US04563210
A solution of 15 g of 2,3,4-trichlorophenylhydrazine, 8.7 g of (ethoxymethylene)malononitrile, 100 ml of glacial acetic acid and 50 ml of water was refluxed for 3 hours. The reaction mixture was cooled, poured into ice water and the precipitated solid was collected by filtration and dried. This solid was dissolved in ethyl acetate and the resulting solution was washed twice with saturated sodium bicarbonate, once with 100 ml of water, once with 100 ml of saturated brine and dried over anhydrous magnesium sulfate. The organic phase was evaporated under reduced pressure and the residue was recrystallized from ethanol to give 13.2 g of 5-amino-1-(2,3,4-trichlorophenyl)-1H-pyrazole-4-carbonitrile. Yield 66%. mp=140°-142° C.

reactant | 2,3,4-trichlorophenylhydrazine | 15 g | ClC1=C(C=CC(=C1Cl)Cl)NN | C6H5Cl3N2
reactant | (ethoxymethylene)malononitrile | 8.7 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 5-amino-1-(2,3,4-trichlorophenyl)-1H-pyrazole-4-carbonitrile | 13.2 g, Yield 66% | NC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C#N | C10H5Cl3N4
